US07202363B2
N-(4-{4-amino-7-[3-(4-hydroxypiperidin-1-yl)propyl]thieno[3,2-c]pyridin-3-yl}2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
N-(4-{4-Amino-7-[(1E)-3-(4-hydroxypiperidin-1-yl)prop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (130 mg, 0.23 mmol), ethanol (25 mL), and acetic acid (0.65 mL) were combined in a hydrogenation vessel, purged, and palladium hydroxide on carbon (45 mg, 50% weight dispersion in oil, 0.16 mmol) was added. 50 Psi of hydrogen was applied for 16 hours. The mixture was filtered and purified by RP-HPLC to yield the title compound (35 mg, 25% yield) after lyophilization: 1H NMR (DMSO, 400 MHz) δ 9.50 (s, 1H), 7.98 (d, 1H), 7.70–7.72 (m, 2H), 5.59 (d, 1H), 7.54 (s, 1H), 7.07–7.35 (m, 3H), 5.34 (bs, 2H), 4.58 (bs, 1H), 4.04 (s, 3H), 3.91 (s, 3H), 2.71 (t, 2H), 2.28 (t, 2H), 1.97 (t, 2H), 1.90 (s, 3H), 1.82 (t, 2H), 1.70 (m, 1H), 1.40 (q, 2H); RP-HPLC (Conditions i) Rt 10.0 min. MS: 568.3 MH−.

reactant | N-(4-{4-Amino-7-[(1E)-3-(4-hydroxypiperidin-1-yl)prop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.23 mmol, 130 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CN2CCC(CC2)O | C32H33N5O3S
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.16 mmol, 45 mg | [OH-].[OH-].[Pd+2]
solvent | acetic acid | 0.65 mL | C(C)(=O)O | C2H4O2
product | N-(4-{4-amino-7-[3-(4-hydroxypiperidin-1-yl)propyl]thieno[3,2-c]pyridin-3-yl}2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 35 mg, 25% yield | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)CCCN2CCC(CC2)O | C32H35N5O3S
